US07323475B2
c) 4-Hydroxy-1-methoxy-isoquinoline-3-carboxylic acid butyl ester
A mixture of 4-benzyloxy-1-methoxy-isoquinoline-3-carboxylic acid butyl ester (164 mg, 0.45 mmol), Pd/C (50 mg, 10 wt % Pd) and EtOAc (15 ml) was stirred under a H2-atmosphere at ambient pressure and temperature for 16 h. Then the mixture was filtered through a pad of celite. Celite and filter cake were washed thoroughly with EtOAc and the combined organic phases were concentrated in vacuo to give the title compound as a white solid (115 mg); 1H NMR (CDCl3): δ=11.48 (s, 1H), 8.27 to 8.32 (m, 1H), 8.17 to 8.21 (m, 1H), 7.65 to 7.78 (m, 2H), 4.43 (t, 2H), 4.10 (s, 3H), 1.87 (m, 2H), 1.54 (m, 2H), 1.02 (t, 3H).

reactant | 4-benzyloxy-1-methoxy-isoquinoline-3-carboxylic acid butyl ester | 0.45 mmol, 164 mg | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)OC | C22H23NO4
catalyst | Pd/C | 50 mg | [Pd] | Pd
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
product | 4-Hydroxy-1-methoxy-isoquinoline-3-carboxylic acid butyl ester | 115 mg | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)OC | C15H17NO4
